US07223788B2
(R)-N-Methyl-N-[1-(4-nitrophenyl)pyrrolidin-3-yl]acetamide
(R)-N-[1-(4-Nitrophenyl)pyrrolidin-3-yl]acetamide (1.3 g) was added in portions to a suspension of sodium hydride (50% in oil; 0.25 g) in DMF (50 ml). After gas evolution had ceased, iodomethane (0.82 g) was added. After one hour, the reaction mixture was cautiously hydrolyzed with water and extracted with ethyl acetate. The organic phase was dried over magnesium sulfate and concentrated. This resulted in the product with the molecular weight of 263.30 (C13H17N3O3); MS (ESI): 264 (M+H+).

reactant | (R)-N-[1-(4-Nitrophenyl)pyrrolidin-3-yl]acetamide | 1.3 g | [N+](=O)([O-])C1=CC=C(C=C1)N1C[C@@H](CC1)NC(C)=O | C12H15N3O3
reactant | sodium hydride | 0.25 g | [H-].[Na+]
reactant | iodomethane | 0.82 g | IC | CH3I
reactant | water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | (R)-N-Methyl-N-[1-(4-nitrophenyl)pyrrolidin-3-yl]acetamide | CN(C(C)=O)[C@H]1CN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C13H17N3O3
